US07572820B2
2-Methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole: 1H NMR (400 MHz, CDCl3) δ 8.31 (s, 1H), 8.24 (d, J=8.1 Hz, 1H), 7.83 (d, J=7.8 Hz, 1H), 7.64 (m, 2H), 7.38 (d, J=7.9 Hz, 1H), 7.22 (t, J=7.9 Hz, 1H), 6.52 (s, 1H), 5.45 (s, 2H), 2.66 (s, 3H); MS (ES) m/z 426 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole | CC=1NC2=CC=CC(=C2C1)C(F)(F)F | C10H8F3N
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 2-Methyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole | CC=1N(C2=CC=CC(=C2C1)C(F)(F)F)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C20H13F6N3O
